US07176242B2
Step 6: Methyl 4-butyl-1-(methylsulfonyl)-1,2,3,4-tetrahydroquinoxaline-6-carboxylate
To an ice-cold, stirred solution of methyl 4-butyl-1,2,3,4-tetrahydroquinoxaline-6-carboxylate (180 mg) and triethylamine (62 μL) in methylene chloride (2 mL) was added methanesulfonyl chloride (101 μL) and the mixture was stirred for 1 h. The mixture was warmed to room temperature, diluted with methylene chloride, washed with washed with 1 N hydrochloric acid, and brine. The organic layer was then dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:3 ethyl acetate/hexanes) provided 150 mg of the title compound: 1H NMR (300 MHz, CDCl3) δ 7.57, 7.41, 7.32, 3.90, 3.84, 3.45, 3.38, 1.61, 1.41, 0.98.

reactant | methyl 4-butyl-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 180 mg | C(CCC)N1CCNC2=CC=C(C=C12)C(=O)OC | C14H20N2O2
reactant | triethylamine | 62 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 101 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-butyl-1-(methylsulfonyl)-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 150 mg | C(CCC)N1CCN(C2=CC=C(C=C12)C(=O)OC)S(=O)(=O)C | C15H22N2O4S
